US07847100B2
To a solution of N-(tert-butyl((1R)-1-benzyl-1-methyl-2-oxoethyl)carbamate (Intermediate XLIX, 1 g, 3.80 mmol) in acetonitrile (15 mL) was added 6 drops water, trimethylsulfonium iodide (775 mg, 3.80 mmol) and potassium hydroxide (511 mg, 9.11 mmol). The reaction was stirred at 60° C., sealed, for 1.5 h, additional trimethylsulfonium iodide (775 mg, 3.80 mmol) and potassium hydroxide (511 mg, 9.11 mmol) were added and the reaction was stirred at 60° C., sealed, for 3 h. the reaction mixture was diluted with EtOAc, washed with sat'd aq NaHCO3, brine, dried over sodium sulfate, and concentrated in vacuo to provide tert-butyl((1R)-1-methyl-1-oxiran-2-yl-2-phenylethyl)carbamate as an oil. MS (ES, M+H) 278.

reactant | tert-butyl((1R)-1-benzyl-1-methyl-2-oxoethyl)carbamate | 3.80 mmol, 1 g | C(C)(C)(C)OC(N[C@](C=O)(C)CC1=CC=CC=C1)=O | C15H21NO3
reactant | trimethylsulfonium iodide | 3.80 mmol, 775 mg | [I-].C[S+](C)C
reactant | potassium hydroxide | 9.11 mmol, 511 mg | [OH-].[K+]
reactant | trimethylsulfonium iodide | 3.80 mmol, 775 mg | [I-].C[S+](C)C
reactant | potassium hydroxide | 9.11 mmol, 511 mg | [OH-].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | water | 6 drops | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl((1R)-1-methyl-1-oxiran-2-yl-2-phenylethyl)carbamate | C(C)(C)(C)OC(N[C@](CC1=CC=CC=C1)(C1OC1)C)=O | C16H23NO3
